US06005116
(b) 3-(2-Dimethylaminoethoxy)-5-phenylisoxazole
After dimethylamine hydrochloride (815 mg) was dissolved in methanol (50 ml), 3-(2-bromoethoxy)-5-phenylisoxazole (268 mg) and triethylamine (2.8 ml) were added thereto, followed by reflux of the resulting mixture for 8 hours. After the reaction, the solvent was evaporated under reduced pressure. The residue was dissolved in ether (20 ml), and the solution was washed with a diluted aqueous NaCl solution (20 ml), followed by drying of the organic layer over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate) to obtain the title compound (146 mg, 63%) as colorless crystals.

reactant | dimethylamine hydrochloride | 815 mg | Cl.CNC
reactant | 3-(2-bromoethoxy)-5-phenylisoxazole | 268 mg | BrCCOC1=NOC(=C1)C1=CC=CC=C1 | C11H10BrNO2
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 50 ml | CO | CH4O
product | 3-(2-Dimethylaminoethoxy)-5-phenylisoxazole | 146 mg, 63% | CN(CCOC1=NOC(=C1)C1=CC=CC=C1)C | C13H16N2O2
